US06762180B1
(15) 3-Z-[1-(4-(N-(3-dimethylamino-propyl)-N-methylsulphonyl-amino)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone and N-(3-dimethylamino-propyl)-N-methylsulphonyl-p-phenylenediamine Rf value: 0.6 (silica gel, methylene chloride/ethanol/ammonia=5:2:0.01) C30H34N4O5S

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(C1=CC=CC=C1)OCC)=O | C22H21NO5
reactant | N-(3-dimethylamino-propyl)-N-methylsulphonyl-p-phenylenediamine | CN(CCCN(C1=CC=C(C=C1)N)S(=O)(=O)C)C | C12H21N3O2S
product | 3-Z-[1-(4-(N-(3-dimethylamino-propyl)-N-methylsulphonyl-amino)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone | CN(CCCN(S(=O)(=O)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1)C | C30H34N4O5S
